US07576208B2
10a. Synthesis of 3-Fluorobenzene-1,2-dimethanol—Compound 15
To a solution of LiAlH4 (1M in tetrahydrofuran) (54 ml, 54.0 mmol, 2.0 molar equivalents), cooled to −78° C., was added dropwise a solution of 3-fluorophtalic acid (5.0 g, 27.2 mmol, 1 molar equivalent) in THF (25 ml). The reaction mixture was allowed to warm up to room temperature and then stirred at 70° C. for 2 hours. To this resulting solution, cooled at 0° C. was added a 2M sodium hydroxide solution (25 ml) followed by cold water (25 ml) and THF (50 ml). The reaction mixture was then further extracted with THF (3×50 ml). The organic fractions were combined, washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuum to give a light yellow solid. Purification by recrystallisation from acetone/hexane gave the title compound as white needles (3.3 g, 79%). 1H NMR (300.13 MHz, DMSO) δ(ppm) 4.53 (dd, J1=5.50, J2=2.00 Hz, 2H) 4.67 (d, J=5.50 Hz, 2H) 4.98 (t, J=5.50 Hz, 1H) 5.22 (t, J=5.50 Hz, 1H) 7.00-7.10 (m, 1H) 7.25-7.35 (m, 2H). 19F NMR (282.38 MHz, DMSO) δ(ppm) −119.92 (s). 13C NMR (75.48 MHz, CDCl3) δ (ppm) 52.63, 60.07, 113.26, 122.81, 128.69, 144.02, 158.64, 161.87.

reactant | LiAlH4 | 54.0 mmol, 1M, 54 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-fluorophtalic acid | 27.2 mmol, 1 molar, 5.0 g | FC1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5FO4
reactant | sodium hydroxide | 2M, 25 ml | [OH-].[Na+]
reactant | water | 25 ml | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-Fluorobenzene-1,2-dimethanol | 3.3 g, 79% | FC1=C(C(=CC=C1)CO)CO | C8H9FO2
